US05219860
Step 1: Spiro[1H-indene-1,4'-piperidine]
Spiro[1H-indene-1,4'-piperidine]hydrochloride (400 mg, 1.8 mmol), prepared according to Example 1, step 3, was dissolved in water (10 ml), and the solution made alkaline with sodium carbonate. The mixture was extracted with dichloromethane (3×10 ml), the organic layers separated, dried (MgSO4) and evaporated in vacuo. The free base was used without any further purification.

reactant | Spiro[1H-indene-1,4'-piperidine]hydrochloride | 1.8 mmol, 400 mg | Cl.N1CCC2(CC1)C=CC1=CC=CC=C12
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | Spiro[1H-indene-1,4'-piperidine] | N1CCC2(CC1)C=CC1=CC=CC=C12 | C13H15N
